US08048881B2
432.1. Acetic acid 5,5-dimethyl-4-oxo-hex-2-ynyl ester
Pivaloyl chloride (612 μl), propargyl acetate (644 μl), cupper iodide (12 mg) and bis-(triphenylphosphine) palladium(II)-dichloride (9.1 mg) in NEt3 (10 ml) were stirred at RT for 24 h. MeOH was added and the mixture was evaporated off. The residue was taken up in Et2O and the resulting suspension filtered off. The solution was washed with a 1M HCl solution, water, dried (Na2SO4) and evaporated off. Column chromatography (EA/Hept 1/3) afforded 343 mg of the desired compound.

reactant | Pivaloyl chloride | 612 μl | C(C(C)(C)C)(=O)Cl | C5H9ClO
reactant | propargyl acetate | 644 μl | C(C)(=O)OCC#C | C5H6O2
reactant | iodide | 12 mg | [I-]
reactant | MeOH | CO | CH4O
solvent | NEt3 | 10 ml | CCN(CC)CC | C6H15N
catalyst | bis-(triphenylphosphine) palladium(II)-dichloride | 9.1 mg | [Pd](Cl)Cl.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | Acetic acid 5,5-dimethyl-4-oxo-hex-2-ynyl ester | 343 mg | CC(C(C#CCOC(C)=O)=O)(C)C | C10H14O3
